US06025382
Preparation of 2-[4-[2-(1-Imidazolyl)ethoxy]phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene Dioxalate.
By essentially following the procedure described in Example 3, Part D, the free base of the title compound was prepared from 2-(4-hydroxyphenyl)-3-[4-[2-(1-pyrrolidinyl)-ethoxy]benzyl]benzo[b]thiophene (Example 196; Part A) and 1-(2-chloroethyl)imidazole in 53% yield following radial chromatography (SiO2 ; 45% THF and 5% TEA in hexanes then 4% MeOH in CHCl3 sat'd with NH4OH). The product was converted to the oxalate salt by the conditions described in Example 196, Part D.

reactant | 2-(4-hydroxyphenyl)-3-[4-[2-(1-pyrrolidinyl)-ethoxy]benzyl]benzo[b]thiophene | OC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | C27H27NO2S
reactant | 1-(2-chloroethyl)imidazole | ClCCN1C=NC=C1 | C5H7ClN2
reactant | THF | C1CCOC1 | C4H8O
reactant | NH4OH | [NH4+].[OH-]
reactant | MeOH | CO | CH4O
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-[4-[2-(1-Imidazolyl)ethoxy]phenyl]-3-[4-[2-(1-pyrrolidinyl)ethoxy]benzyl]benzo[b]thiophene Dioxalate | 53% yield | C(C(=O)O)(=O)O.C(C(=O)O)(=O)O.N1(C=NC=C1)CCOC1=CC=C(C=C1)C1=C(C2=C(S1)C=CC=C2)CC2=CC=C(C=C2)OCCN2CCCC2 | InChI=1S/C32H33N3O2S.2C2H2O4/c1-2-6-31-29(5-1)30(23-25-7-11-27(12-8-25)36-21-19-34-16-3-4-17-34)32(38-31)26-9-13-28(14-10-26)37-22-20-35-18-15-33-24-35;2*3-1(4)2(5)6/h1-2,5-15,18,24H,3-4,16-17,19-23H2;2*(H,3,4)(H,5,6)
